US08871967B2
(E)-cyclopropylmethyl hex-2-enoate
Prepared from (E)-methyl hex-2-enoate and cyclopropanemethanol according to the ester preparation method B described above.

reactant | (E)-methyl hex-2-enoate | C(\C=C\CCC)(=O)OC | C7H12O2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
product | (E)-cyclopropylmethyl hex-2-enoate | C(\C=C\CCC)(=O)OCC1CC1 | C10H16O2
